* C:\Users\DR YESUFU\Desktop\Yesufu Faith ltspice\CENTER tap full wave.asc
V1 N003 0 SINE(0 308 50)
L1 N004 0 40µ
L2 0 N001 40µ
L3 N003 0 1m Rser=1
D1 N001 N002 1N4148
D2 N004 N002 1N4148
R1 N002 0 10K
.model D D
.lib C:\Users\DR YESUFU\Documents\LTspiceXVII\lib\cmp\standard.dio
K L3 L2 L1 1
.tran .2
.backanno
.end
