* C:\Users\DR YESUFU\Desktop\Yesufu Faith ltspice\half wave.asc
V2 N001 0 SINE(0 1 100)
D1 N001 N002 D
R1 N002 0 10k
C1 N002 0 100µf
.model D D
.lib C:\Users\DR YESUFU\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0.05
.backanno
.end
